US04032676
N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-citrulline
The product was made from D-glucose and L-(+)-citrulline using Raney nickel or palladium/activated carbon as a catalyst and heating for 2 hours to 50° C. and 4 hours to 70° C. A product was obtained which had a melting point of 176° C. and an RF -value of 0.7 (determined on DC-finished plates of silica gel G (Merck) with a transporting liquid made up of 50 parts by volume of methanol and 50 parts by volume of water).

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-(+)-citrulline | N[C@@H](CCCNC(=O)N)C(=O)O | C6H13N3O3
reactant | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
solvent | water | O | H2O
product | N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-citrulline | OC(CN[C@@H](CCCNC(=O)N)C(=O)O)C(C(C(CO)O)O)O | C12H25N3O8
